2147-05-05 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Admitted to MICU [**Location (un) 257**] with GI bleed
   - given 4L NS in ED, NGT lavage to clear after 250cc.
   - GI EGD sig for erosion in antrum and stomach body, injected and
   clipped.  One erosion with stigmata of recent bleeding with visible
   vessel but no active bleeding. rec transfuse for HCT<30, PPI IV BID,
   H.pylori serology
   - transfused 4u PRBC, 4u FFP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-4**] 04:00 PM
   Vancomycin - [**2147-5-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-5**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 115 (70 - 117) bpm
   BP: 125/75(97) {68/34(46) - 125/75(97)} mmHg
   RR: 31 (10 - 34) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  2,660 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                  1,940 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    920 mL
   Urine:
                                                                  2,180 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    480 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: 7.42/64/56/38/13
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   8.5 g/dL
   93 mg/dL
   0.2 mg/dL
   38 mEq/L
   3.5 mEq/L
   4 mg/dL
   103 mEq/L
   145 mEq/L
   26.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2147-5-3**]  06:39 AM
                             [**2147-5-3**]  08:39 AM
                             [**2147-5-3**]  11:33 AM
                             [**2147-5-3**]  01:04 PM
                             [**2147-5-3**]  11:49 PM
                             [**2147-5-4**]  04:15 AM
                             [**2147-5-4**]  04:49 AM
                             [**2147-5-4**]  06:28 AM
                             [**2147-5-5**]  04:38 AM
                             [**2147-5-5**]  04:52 AM
   WBC
   5.6
   6.3
   Hct
   23.5
   26.1
   Plt
   156
   202
   Cr
   0.2
   0.2
   0.2
   TCO2
   37
   36
   35
   40
   43
   40
   43
   Glucose
   102
   79
   93
   Other labs: PT / PTT / INR:14.0/31.2/1.2, Differential-Neuts:91.2 %,
   Lymph:7.2 %, Mono:1.5 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 DELIRIUM / CONFUSION
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
 INEFFECTIVE COPING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-30**] 07:24 PM
   Arterial Line - [**2147-5-3**] 12:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-05-05 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued chest PT
   - psych recs for anxiety clonazepam 0.5mg q AM and 1mg q PM, recs d/c
   ativan and trazadone, recs for extreme agitation, may consider
   haloperidol 1-2mg po/iv/im
   - neuro recs unlikely autonomic instability since pt is bedrest at this
   time
   - decreased lyrica to 75mg tid
   - sputum [**5-2**] with GNR, Bcx neg
   - desat in AM when awake, appeared secondary to pt effort and anxiety
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-4**] 04:00 PM
   Vancomycin - [**2147-5-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-5**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 115 (70 - 117) bpm
   BP: 125/75(97) {68/34(46) - 125/75(97)} mmHg
   RR: 31 (10 - 34) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  2,660 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                  1,940 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                  1,120 mL
   Urine:
                                                                  2,180 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    480 mL
                                                                 -1,120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: 7.42/64/56/38/13
   Physical Examination
   GEN: visibly tired, lying in bed with face mask
   HEENT: EOMI, PERRL, oral mucosa slightly dry
   NECK: Supple, no LAD, JVP elevation not evident
   CARD: RR, nl S1, nl S2, no M/R/G
   PULM: CTAB anteriorly
   ABD: BS+, soft, NT, mildly distended, tympanic
   EXT: bipedal 1+ edema with trace BLE edema
   NEURO: Oriented to
[**Hospital3 389**] hospital
 and year; however does not
   known month or day of week
   PSYCH: blunted affect
   Labs / Radiology
   202 K/uL
   8.5 g/dL
   93 mg/dL
   0.2 mg/dL
   38 mEq/L
   3.5 mEq/L
   4 mg/dL
   103 mEq/L
   145 mEq/L
   26.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2147-5-3**]  06:39 AM
                             [**2147-5-3**]  08:39 AM
                             [**2147-5-3**]  11:33 AM
                             [**2147-5-3**]  01:04 PM
                             [**2147-5-3**]  11:49 PM
                             [**2147-5-4**]  04:15 AM
                             [**2147-5-4**]  04:49 AM
                             [**2147-5-4**]  06:28 AM
                             [**2147-5-5**]  04:38 AM
                             [**2147-5-5**]  04:52 AM
   WBC
   5.6
   6.3
   Hct
   23.5
   26.1
   Plt
   156
   202
   Cr
   0.2
   0.2
   0.2
   TCO2
   37
   36
   35
   40
   43
   40
   43
   Glucose
   102
   79
   93
   Other labs: PT / PTT / INR:14.0/31.2/1.2, Differential-Neuts:91.2 %,
   Lymph:7.2 %, Mono:1.5 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 50 yo f with paraplegia secondonary to MVA in [**2142**], h/o
   recurrent resistant infections, here with pneumonia and hypotesion.
   # Hypotension:
   Episode of hypotension this morning with MAPs down to 50s by aterial
   and cuff measures. Original hypotension was likely related to septic
   physiology; however, hypotension this AM most likely related to
   over-aggressive diuresis with furosemide yesterday given 4600 mL of UOP
   compounded with 3 large liquid stools this AM. Her hourly UOP declined
   from ~ 100 mL/hr overnight to ~ 50 mL/hr in two hour period of
   hypotension this AM. Was placed back on levophed after fluid bolus this
   AM with good response in BP.
   - IVF bolus for further decline in BP
   - Liberate from levophed quickly given tachycardia two days ago
   # Respiratory distress:
   Her respiratory distress is likely attributable to multiple etiologies.
   Overall improving with patient was liberated from face mask high flow
   O2 and now is on 5L NC. Primary cause of resp distress is pneumonia
   with poor sputum clearance leading to occasional mucus plugging
   associated with desats and tachypnea. Another component is heart
   failure evidenced by slight volume overload per CXR as well as BNP of
   >[**2138**]. Additional complicating factor is patient
s anxiety, which has
   caused period of tachypnea and desats.
   - Continue Vanc and Zosyn
   - Continue pulmonary hygiene with mucinex, chest PT, incentive [**Location (un) 2811**],
   acapella valve, and transfer to sit up in chair as tolerated
   - Attempt mechanical inexsufflator today
   - Hold on further diuresis until hypotension resolves
   - Avoid medications for anxiety and redirect verbally
   - Continue to replete phos aggressively
   #  Fever / leukocytosis:
   Afebrile in last 24 hours and WBC continues to trend down. Was 5.6 this
   AM, down from 8.5 yesterday. Patient has purulent productive cough and
   radiographic evidence of PNA. HAP is most likely explanation of her
   fever and leukocytosis. Sputum culture from [**5-2**] with NGTD.  She has
   history of resistant UTI, so that will be followed, though negative UA
   and urine cx thus far. Some consideration of PICC as infection source;
   however, attempt to gain peripheral access yesterday was unsuccessful.
   Will leave PICC line in at this time given that WBC trending down and
   afebrile. Legionella urinary antigen was negative.
   - Continue vanco/zosyn, with Vanc alternating between two PICC lumen
   - f/u blood cultures
   - f/u sputum culture given likelihood of resistant organisms
   # Delerium:
   For last two nights, patient has struggled from episodes of delirium
   associated with hallucinations and paranoid behavior. Most likely
   resulting from combination of medication effect from opiates, benozs,
   baclofen, oxybutinin, along with possible component of benzo
   withdrawal, compounded with erratic sleep-wake cycle in the ICU as well
   as line and tube attachment, also compounded with infectious process.
   - Treat infection
   - Continue to hold anticholinergic oxybutinin
   - Attempt to keep awake during day to allow sleep at night
   - untether as much as possible
   #  Depression and Anxiety:
   Episodes of anxiety significantly associated with O2 desaturation.
   Current med regimen is not controlling
   - Citalopram 40 mg
   - Klonopin QHS at minimum doses to prevent hypotension
   - Consult psychiatry for help in management of anxiety, delirium,
   depression
   #  h/o DVT:
   IVC filter in place since [**2142**].  Suspicion for PE currently low given
   PNA is much more likely diagnosis in setting of productive cough,
   infiltrate on CXR, fever, and leukocytosis, so will not pursue CTA at
   this point.
   - HepSC prophylaxis or pneumoboots if continues to refuse heparin
   #  Anemia:
   Baseline HCT 30-35. Was 23.5 this AM. Most recent anemia studies in
   [**11/2146**] consistent with anemia of chronic disease.
   - Trend HCT
   - Maintain active Type & screen
   - Guaiac stools
   #  Chronic pain:
   Contact [**Name (NI) 12**] pain physicians to discuss regimen and past experience.
   Some of her pain meds may be contributing to her hypotension and
   delirium. Pregabalin is currently at greater than maximum rec dose of
   300 mg/day.
   - Continue methadone, baclofen
   - Reduce pregabalin dose to 75 mg TID
   #  Hypothyroidism:
   - TSH came back at 0.6, cont levothyroxine
   #  Constipation:
   Relief today with 3 large volume liquid bowel movements.
   - Continue bowel regimen of Polyethylene Glycol 17 grams daily,
   Docusate Sodium 100 mg PO BID, Senna 8.6 mg [**Hospital1 **], bisacodyl PRN
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  None needed at this time
   Lines:  PICC Line - [**2147-4-30**] 07:24 PM
   Prophylaxis:
   DVT:  Heparin SQ if does not refuse, pneumoboots
   Stress ulcer: Omeprazole [**Hospital1 **]
   Communication:  Patient, husband
   [**Name (NI) 156**] status: FULL, confirmed with patient and husband
   Disposition: ICU care for now, if liberated from pressors for standing
   time period, may call out to floor.

2147-05-06 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient started on new anxiety regimen of haldol and ativan PRN
   - Trazodone was discontinued
   - Oxybutynin discontinued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-5**] 10:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-6**] 12:37 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2147-5-5**] 10:22 PM
   Haloperidol (Haldol) - [**2147-5-6**] 04:12 AM
   Morphine Sulfate - [**2147-5-6**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-6**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 78 (63 - 103) bpm
   BP: 138/75(103) {93/54(71) - 149/85(111)} mmHg
   RR: 13 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,320 mL
                                                                    100 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    600 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                    700 mL
   Urine:
                                                                  2,990 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,670 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 99%
   ABG: 7.41/66/98.[**Numeric Identifier 20**]/37/13
   PaO2 / FiO2: 245
   Physical Examination
   GEN: NAD, lying in bed, slightly diaphoretic
   HEENT: EOMI, PERRL
   NECK: Supple, no LAD, JVP elevation not evident
   CARD: RR, nl S1, nl S2, no M/R/G
   PULM: Diffusely rhonchorous with variable coarse crackles R > L that
   clear minimally with cough
   ABD: BS+, soft, NT, mildly distended, tympanitic
   EXT: bipedal 1+ edema with trace BLE edema, R PICC line is nontender to
   palpation and without surrounding erythema
   NEURO: Oriented to hospital and clinical situation; however, ongoing
   date confusion
   PSYCH: Appears anxious
   Labs / Radiology
   192 K/uL
   8.1 g/dL
   108 mg/dL
   0.3 mg/dL
   37 mEq/L
   3.0 mEq/L
   3 mg/dL
   102 mEq/L
   146 mEq/L
   24.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2147-5-3**]  11:33 AM
                             [**2147-5-3**]  01:04 PM
                             [**2147-5-3**]  11:49 PM
                             [**2147-5-4**]  04:15 AM
                             [**2147-5-4**]  04:49 AM
                             [**2147-5-4**]  06:28 AM
                             [**2147-5-5**]  04:38 AM
                             [**2147-5-5**]  04:52 AM
                             [**2147-5-6**]  04:28 AM
                             [**2147-5-6**]  04:41 AM
   WBC
   5.6
   6.3
   4.4
   Hct
   23.5
   26.1
   24.8
   Plt
   156
   202
   192
   Cr
   0.2
   0.2
   0.2
   0.3
   TCO2
   35
   40
   43
   40
   43
   43
   Glucose
   102
   79
   93
   108
   Other labs: PT / PTT / INR:14.0/31.2/1.2, Differential-Neuts:91.2 %,
   Lymph:7.2 %, Mono:1.5 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 50 yo f with paraplegia secondonary to MVA in [**2142**], h/o
   recurrent resistant infections, here with pneumonia and hypotesion.
   # Respiratory distress:
   Her respiratory distress is likely attributable to multiple etiologies.
   Overall improving with sats in the high 90s on 4 L NC when without
   anxiety. Primary cause of resp distress is pneumonia with poor sputum
   clearance leading to occasional mucus plugging associated with desats
   and tachypnea. Complicating factor is patient
s anxiety, which has
   caused period of tachypnea and desats. Less likely to be contributing
   at this point is heart failure, as patient was diuresed to point of
   hypo tension yesterday and has had no increase in O2 requirement since
   that time.
   - Continue Vanc and Zosyn
   - Continue pulmonary hygiene with mucinex, chest PT, incentive [**Location (un) 2811**],
   acapella valve, in-exsufflator, and transfer to sit up in chair as
   tolerated
   - Hold on further diuresis and maintain even I/O
   #  Fever / leukocytosis:
   Afebrile in last few days and WBC essentially stable at 6.3 this AM.
   Patient has purulent productive cough and radiographic evidence of PNA.
   HAP is most likely explanation of her fever and leukocytosis. Sputum
   culture from [**5-2**] with GNR and no further speciation, thus unable to
   further tailor her therapy.  She has history of resistant UTI, so that
   will be followed, though negative UA and urine cx thus far. Some
   consideration of PICC as infection source; however, attempt to gain
   peripheral access [**2147-5-3**] was unsuccessful. Will leave PICC line in at
   this time given that WBC stable and afebrile. Legionella urinary
   antigen was negative.
   - Continue vanco/zosyn, with Vanc alternating between two PICC lumen
   - f/u blood cultures
   # Delerium:
   Patient has struggled from episodes of delirium associated with
   hallucinations and paranoid behavior overnight. Most likely resulting
   from combination of medication effect from opiates, benozs, baclofen,
   oxybutinin, along with possible component of benzo withdrawal,
   compounded with erratic sleep-wake cycle in the ICU as well as line and
   tube attachment, also compounded with infectious process.
   - Psychiatry consulted and helping with med managment
   - Continue to treat infection
   - Discontinue anticholinergic oxybutinin
   - Attempt to keep awake during day to allow sleep at night
   - Untether as much as possible
   # Hypotension:
   Was quickly liberated from levophed last night and had no further
   hypotensive episodes. Fluid balance was essentially even yesterday.
   Neurology feels unlikely to be autonomic dysfunction contributing given
   patient has been on bedrest.
   - No further diuresis at this time unless increasing repiratory
   difficulty unexplained by anxiety and respiratory secretions.
   #  Depression and Anxiety:
   Episodes of anxiety significantly associated with O2 desaturation.
   Current med regimen is not controlling well.
   - Citalopram 40 mg
   - Appreciate psychiatry input into med management of her anxiety
   without compromising resp status.
   #  h/o DVT:
   IVC filter in place since [**2142**].  Suspicion for PE currently low given
   PNA is much more likely diagnosis in setting of productive cough,
   infiltrate on CXR, fever, and leukocytosis, so will not pursue CTA at
   this point.
   - Pneumoboots for prophylaxis
   #  Anemia:
   Baseline HCT 30-35. Was 23.5 [**2147-5-4**] and has recovered spontaneously
   to 26.1. Most recent anemia studies in [**11/2146**] consistent with anemia
   of chronic disease.
   - Trend HCT
   - Maintain active Type & screen
   - Guaiac stools
   #  Chronic pain:
   Contact [**Name (NI) 12**] pain physicians to discuss regimen and past experience.
   Some of her pain meds may be contributing to her hypotension and
   delirium.
   - Continue methadone, baclofen
   - Continue pregabalin dose at 75 mg TID
   #  Hypothyroidism:
   - TSH came back at 0.6, cont levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-30**] 07:24 PM
   Arterial Line - [**2147-5-3**] 12:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: